US04210668
2-[N-methyl-N-[N-methyl-N-[(1-methylthioethylidene)aminooxycarbonyl]aminothio]aminocarbonyloxy]benzoic acid butyl ester
A 5.8 g portion of n-butyl salicylate was added to a solution of 1.2 g of sodium hydroxide in 75 ml of water, producing a thick suspension. To the above suspension was added 100 ml of methylene chloride and 0.3 g of tricaprylylmethyl ammonium chloride. The reaction mixture was stirred vigorously while a solution of 8.1 g of methyl N-[[N-[(fluorocarbonyl-N-methylamino)thio]-N-methylaminocarbonyloxy]]ethanimidothioate in 50 ml methylene chloride was added dropwise. When addition was complete, stirring was continued for one hour. The organic phase was separated and washed with 200 ml of water followed by 100 ml of saturated sodium chloride solution. The organic solution was dried over anhydrous magnesium sulfate, and the solvent was distilled under reduced pressure. On scratching and standing, the crude reaction product partially solidified. The title compound was isolated by dissolving the crude reaction product in 25 ml of ethanol, cooling the solution and diluting with hexane to afford 5.7 g of 2-[N-methyl-N-[N-methyl-N-[(1-methylthioethylidene)aminooxycarbonyl]aminothio]aminocarbonyloxy]benzoic acid butyl ester, m.p. 87° -89° C. Absorption bands characteristic of the title compound were observed in the infrared and NMR spectrums.

reactant | n-butyl salicylate | C(C=1C(O)=CC=CC1)(=O)OCCCC | C11H14O3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | tricaprylylmethyl ammonium chloride | 0.3 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
reactant | methyl N-[[N-[(fluorocarbonyl-N-methylamino)thio]-N-methylaminocarbonyloxy]]ethanimidothioate | 8.1 g | FC(=O)N(C)SN(C)C(=O)ON=C(C)SC | C7H12FN3O3S2
solvent | water | 75 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[N-methyl-N-[N-methyl-N-[(1-methylthioethylidene)aminooxycarbonyl]aminothio]aminocarbonyloxy]benzoic acid butyl ester | C(CCC)OC(C1=C(C=CC=C1)OC(=O)N(SN(C(=O)ON=C(C)SC)C)C)=O | C18H25N3O6S2
